US20010020030A1
2,3,5-Trichloro-4-formylpyridine
A solution of lithium diisopropylamide (7.3 mL, 1.5 M in cyclohexane, 11 mmol) in 10 mL of dry THF under nitrogen at −78° C. was treated with 2,3,5-trichloropyridine (2 g, 11 mmol) in 20 mL THF over a 30 minute period, stirred an additional 30 minutes, then methyl formate (1.4 mL, 1.3 g, 22 mmol) in 14 mL THF was added slowly to the brown solution over 15 minutes, allowed to slowly warm to room temperature and stirred overnight. The resultant dark brown solution was poured onto ice and saturated NaHCO3, extracted with ethyl acetate, washed with brine, dried (Na2SO4) and concentrated. The brown oil was flash chromatographed on silica gel with 20-33% ethyl acetate/hexane to provide the title compound (1.7g, 74%).

reactant | lithium diisopropylamide | 11 mmol, 1.5 M, 7.3 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,3,5-trichloropyridine | 11 mmol, 2 g | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
reactant | methyl formate | 22 mmol, 1.4 mL, 1.3 g | C(=O)OC | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 2,3,5-Trichloro-4-formylpyridine | 1.7g, 74% | ClC1=NC=C(C(=C1Cl)C=O)Cl | C6H2Cl3NO
